US03953465
(3-Trifluoromethylphenoxy) (4-chlorophenyl)acetic acid (6.6 g., 0.02 mole) is placed in a 25 ml. 3-necked flask fitted with a condenser, stirrer and an addition of thionyl chloride (2.2 ml, 0.03 mole) over a 2-minute period at room temperature. The reaction mixture is refluxed for 5 hours and the solvent removed under vacuum to afford (3-trifluoromethylphenoxy) (4-chlorophenyl)acetyl chloride which is employed without purification.

reactant | (3-Trifluoromethylphenoxy) (4-chlorophenyl)acetic acid | 0.02 mole, 6.6 g | FC(C=1C=C(OC(C(=O)O)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H10ClF3O3
reactant | thionyl chloride | 0.03 mole, 2.2 ml | S(=O)(Cl)Cl | Cl2OS
product | (3-trifluoromethylphenoxy) (4-chlorophenyl)acetyl chloride | FC(C=1C=C(OC(C(=O)Cl)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H9Cl2F3O2
